US08278482B2
Benzyl 4-(azepan-1-yl)-2-methylbutan-2-ylcarbamate
Crude 4-(Azepan-1-yl)-2-methylbutan-2-amine (4.54 g, 24.6 mmol) was dissolved into DCM (120 mL). To this solution was added CbzOSu (6.13 g, 1 equiv, 24.6 mmol) in one portion. The reaction was left to stir at room temperature for 2 d. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (150 mL) and water (100 mL). The layers were separated and the organic layer washed with saturated sodium bicarbonate (2×100 mL), water (100 mL) and brine (100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil (8.33 g). The crude oil was purified on an ISCO purification system with gradient elution from 1-5% methanol in DCM. The desired fraction was collected and concentrated to give a colorless oil (3.69 g, yield: 47.1%). LRMS (ESI+) for C19H30N2O2 (318.2); Found: 319 (MH+).

reactant | 4-(Azepan-1-yl)-2-methylbutan-2-amine | 24.6 mmol, 4.54 g | N1(CCCCCC1)CCC(C)(N)C | C11H24N2
reactant | CbzOSu | 24.6 mmol, 6.13 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 4-(azepan-1-yl)-2-methylbutan-2-ylcarbamate | 3.69 g, yield: 47.1% | N1(CCCCCC1)CCC(C)(C)NC(OCC1=CC=CC=C1)=O | C19H30N2O2
